US08283364B2
4,5-Difluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride (D23)
1,1-Dimethylethyl 4-(4,5-difluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate D22 (150 mg, 0.4 mmol) was dissolved in dichloromethane (5 ml) and treated with HCl in 1,4-dioxane (1 ml×4M) at room temperature for 4 h. Solvent was then evaporated to afford the title compound, 120 mg. M++H=268.

reactant | 1,1-Dimethylethyl 4-(4,5-difluoro-6-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | FC1=C(C(=CC=2N(C(NC21)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C)F | C18H23F2N3O3
reactant | HCl | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4M, 1 ml | O1CCOCC1 | C4H8O2
product | 4,5-Difluoro-6-methyl-1-(4-piperidinyl)-1,3-dihydro-2H-benzimidazol-2-one hydrochloride | Cl.FC1=C(C(=CC=2N(C(NC21)=O)C2CCNCC2)C)F | InChI=1S/C13H15F2N3O.ClH/c1-7-6-9-12(11(15)10(7)14)17-13(19)18(9)8-2-4-16-5-3-8;/h6,8,16H,2-5H2,1H3,(H,17,19);1H
